US07776869B2
To a solution of 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (1.04 mL, 7.43 mmol) and (1H-pyrrol-3-yl)methanol hydrochloride salt (1.0 g, 7.43 mmol) in DMF (10 mL) was added Na2CO3 (2.36 g, 22.3 mmol). The resulting mixture was heated at 70° C. overnight. The mixture was cooled to room temperature and concentrated under reduced pressure. The mixture was reconstituted in EtOAc (50 mL) and washed with 9% aq. Na2CO3 (10 mL), brine (10 mL), dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford (1-(2-nitro-4-(trifluoromethyl)phenyl)-1H-imidazol-4-yl)methanol.

reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | 7.43 mmol, 1.04 mL | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | (1H-pyrrol-3-yl)methanol hydrochloride salt | 7.43 mmol, 1.0 g | Cl.N1C=C(C=C1)CO
reactant | Na2CO3 | 22.3 mmol, 2.36 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (1-(2-nitro-4-(trifluoromethyl)phenyl)-1H-imidazol-4-yl)methanol | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1C=NC(=C1)CO | C11H8F3N3O3
